US06821965B1
N-(3-dimethylaminophenyl)-4-methyl-3-(5-methylisoxazol-3-ylcarbonylamino)benzamide
Triethylamine (0.129 ml) was added to a stirred mixture of 3-amino-N-(3-dimethylaminophenyl)-4-methylbenzamide (0.1 g), 4-dimethylaminopyridine (5 mg), 5-methylisoxazol-3-ylcarbonyl chloride (0.081 g) and methylene chloride (3 ml) and the resultant mixture was stirred at ambient temperature for 16 hours. The mixture was diluted with methylene chloride (10 ml), washed with a saturated aqueous sodium bicarbonate solution and dried over magnesium sulphate. The organic solution was evaporated and the residue was triturated under isohexane. The resultant solid was dried at 55° C. under vacuum to give the title compound as a solid (0.1 g); NMR Spectrum: (CDCl3) 2.42 (s, 3H), 2.55 (s, 3H), 2.97 (s, 6H), 6.55 (m, 2H), 6.89 (d, 1H), 7.23 (m, 2H), 7.36 (d, 1H), 7.72 (d, 1H), 7.84 (broad s, 1H), 8.55 (broad s, 2H); Mass Spectrum: M+H+ 379.

reactant | Triethylamine | 0.129 ml | C(C)N(CC)CC | C6H15N
reactant | 3-amino-N-(3-dimethylaminophenyl)-4-methylbenzamide | 0.1 g | NC=1C=C(C(=O)NC2=CC(=CC=C2)N(C)C)C=CC1C | C16H19N3O
reactant | 5-methylisoxazol-3-ylcarbonyl chloride | 0.081 g | CC1=CC(=NO1)C(=O)Cl | C5H4ClNO2
catalyst | 4-dimethylaminopyridine | 5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | N-(3-dimethylaminophenyl)-4-methyl-3-(5-methylisoxazol-3-ylcarbonylamino)benzamide | 0.1 g | CN(C=1C=C(C=CC1)NC(C1=CC(=C(C=C1)C)NC(=O)C1=NOC(=C1)C)=O)C | C21H22N4O3
